US04800201
Preparation of 5-methyl-2-phenylamino-6-(4-pyridinyl)-2H-1,4-thiazin-3(4H)-one
2-(3-Chlorobenzoyloxy)-5-methyl-6-(4-pyridinyl)-2H-1,4-thiazin-3(4H)-one and aniline were reacted to give the titled compound as pale yellow crystals.

reactant | 2-(3-Chlorobenzoyloxy)-5-methyl-6-(4-pyridinyl)-2H-1,4-thiazin-3(4H)-one | ClC=1C=C(C(=O)OC2SC(=C(NC2=O)C)C2=CC=NC=C2)C=CC1 | C17H13ClN2O3S
reactant | aniline | NC1=CC=CC=C1 | C6H7N
product | 5-methyl-2-phenylamino-6-(4-pyridinyl)-2H-1,4-thiazin-3(4H)-one | CC=1NC(C(SC1C1=CC=NC=C1)NC1=CC=CC=C1)=O | C16H15N3OS
